US08252833B2
Ethyl (4-amino-2-fluorophenyl)acetate
Ethyl phenylmethyl (2-fluoro-4-nitrophenyl)propanedioate (3.86 g, 10.6 mmol) dissolved in ethanol (50 ml), was treated with ammonium formate (6.7 g, 10.6 mmol) under argon. Palladium on carbon 10% paste (380 mg) was added and the reaction was stirred under reflux for 3 hours (60° C.). The reaction was cooled to room temperature and the catalyst removed by filtration through celite. Solvent was removed to give a brown oil. The crude material was purified by chromatography on silica gel eluting with 0-50% ethyl acetate in hexane (1:1) over 45 minutes. Fractions were evaporated to give the title compound as a yellow oil (1.26 g, 6.4 mmol).

reactant | Ethyl phenylmethyl (2-fluoro-4-nitrophenyl)propanedioate | 10.6 mmol, 3.86 g | FC1=C(C=CC(=C1)[N+](=O)[O-])C(C(=O)OCC)C(=O)OCC1=CC=CC=C1 | C18H16FNO6
reactant | ammonium formate | 10.6 mmol, 6.7 g | C(=O)[O-].[NH4+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | Palladium on carbon | [Pd] | Pd
product | Ethyl (4-amino-2-fluorophenyl)acetate | 6.4 mmol, 1.26 g | NC1=CC(=C(C=C1)CC(=O)OCC)F | C10H12FNO2
